Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right thalamaic IPH
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
GCS Score at ED: 14

Mr. ___ is an ___ yo male who was found down at home 
today,
at the bottom of his staircase in the basement by ___
police, after the were notified by his sister that she was 
unable
to get ahold of him; duration of time down is unknown.  Patient
was taken to an OSH were he was noted only be oriented x 1 with
bruising of the extremities.  Vitals recorded were T 87.8
(?97.8F), P 62, RR 16, and BP 148/68.  CT Head was performed
which demonstrated generalized atrophy, changes consistent with
small vessel ischemic disease, and an acute R thalamic IPH with
mild mass effect and edema.  Due to history of fall with 
bruising
of the extremities, patient had CT C/T Spine, CT Abd/Pelvis, and
CXR as well.  CT Spine showed degenerative changes but no acute
fracture or subluxation.  CT Abd/Pelvis did not show any acute
findings.  CXR demonstrated subsegmental atelectasis on the L>R. 

Lab work was notable for leukocytosis of 19.8, INR of ___
13.8, chemistry with elevated BUN/Cr (48/1.9), elevated troponin
of 0.5, elevated CK of 3514, and AST of 219 (ALT and ALP were
within normal).  Serum tox screen was negative.  EKG reported
NSR.   Patient was transferred to ___ for further evaluation
given IPH.  

Little is known about the patient's past medical history of
current level of functioning.  I was able to speak with his HCP
(sister, ___ who states that she knows he was
hospitalized ___ months ago at ___ for a "heart problem" 
and
was started on BP meds; she is not sure if he was on
anticoagulation.  She states that prior to that hospital stay he
had not seen a physician for years so she is not sure if he had
any other medical problems.  Since his hospitalization, he has
reportedly been following with Dr. ___ in ___. His sister
has not seen him in at least 2 decades, but says she knows that
he does not get out of the house much.  She believes he uses a
cane and uses a ride share van to go the store.  He lives by
himself and has no known focal neurologic deficits at baseline.
Though she does not see him regularly, she does call him every
___ to check on him.  She last spoke to him ~9 days ago
(___), at which time she reports he seemed to be in his USOH. 
She attempted to call yesterday but he did not answer; she 
became
concerned when she called again today and again there was no
answer.  For this reason she called the ___ police dept who
went to his house and found him in his basement as described
above.  

Unable to reliably perform ROS due to patient's level of
cooperation. 

 
Past Medical History:
CAD with 80% lesion of proximal LAD, 90% lesion mid-LAD, *no 
stents*  
HTN  
Hx NSTEMI  
Hx prior "small infarct"  
Gait disturbance  
? Dementia  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: T: 97.5F P: 82  R: 20  BP: 127/66 SaO2: 96% RA
 General: Awake but sleepy; slightly agitated, disheveled.
 HEENT: NC/AT, no scleral icterus noted, dry/cracked mucous
membranes
 Neck: C-collar in place. 
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, II/VI systolic murmur at LLSB
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: Scattered bruising of the extremities, most prominently
LUE. 

Neurologic:

-Mental Status: Awake; oriented to person but not place or date. 

States home when asked where he is; when corrected says "Oh I
knew that!".  States date is ___. Unable to convey
pertinent history or reason for being in the hospital. Patient
does not put more than ___ coherent words together, but can says
occasional short phrases to answer questions.  Most spontaneous
speech is difficult to understand; patient is mumbling or
sentence is incoherent.  Frequently spontaneously says ABCs
(properly).  Repetitvely answers "Rascal Flats" in response to
questions.  Naming: states "Baseball" for ball, "cane" for pen,
and unable to name scissors, but chooses correctly when given
options.  Trouble with repetition; able to complete part but not
a full sentence.  Able to follow both midline (only with RUE) 
and
appendicular commands. There was no obvious neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm; sluggish. EOMI grossly full
with slightly limited upgaze. BTT bilaterally. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 XI: Unable to assess ___ c-collar
 XII: Tongue protrudes in midline.

-Motor: Paratonia throughout, most notably of LUE.  Perseverates
on exam.  L pronator drift. There is a bilateral UE resting
tremor, worse with movement (L>R); suppressible. Difficult to
perform confrontational strength testing; limited by patient
cooperation.  Moves all extremities antigravity but there is
downward drift of the LUE. Lower extremities appear to be
symmetric.    
   Delt Bic Tri WrE FE Grip IP Quad Ham TA  ___
 L  3-   *   4    4+ 5  5    4+  5    5  AG  AG     
 R  4    *   4+   ___-   4+  5    5  AG  AG
*uncooperative with testing
AG (antigravity at least)       

-Sensory: Intact to LT throughout.  No clear extinction to DSS,
though difficult to assess due to patient cooperation. 

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    -    2   -
 R  2  2    -    2   -
Plantar responses bilaterally.

-Coordination: Unable to assess

-Gait: Unable to assess

========================
UPON TRANSFER OUT OF ICU
========================
-GEN: Awake in bed, NAD
-HEENT: NC/AT
-CV: RRR
-PULM: Breathing comfortably on room air. (No longer on face
tent)
-ABD: Soft, NT/ND. 
-EXT: Warm, well-perfused. Bilateral lower extremity edema. No
tenderness to palpation of left shoulder (area of fracture). 

-MS: Eyes open to voice. Alert, oriented to ~hospital (B&W),
month, day, year. Naming intact to high and low frequency
objected. 
-CN: PERRL. EOMI. LNLFF Dysarthria improved. Tongue midline. 
-MOT: 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  ___  5   ___  5-    AG       5  5     
R  5    ___   5  5     5        5  5     

==============
DISCHARGE EXAM
==============
-GEN: appears chronically ill, in no acute distress 
-HEENT: chemosis in left eye, NC/AT
-CV: RRR
-PULM: Breathing comfortably on 1L NC, no wheeze, rales or
rhonchi 
-ABD: Soft, NT/ND. 
-EXT: Warm, well-perfused. Bilateral lower extremity edema. No
tenderness to palpation of left shoulder (area of fracture). no 
phlebitis on right arm.

-MS: Awake, alert. Eyes open to voice. Alert, oriented to self,
hospital and year, not to situation. Increased response 
latencies. Naming intact to high and low frequency objects. Mild 
dysarthria. No evidence of hemineglect. Hypophonic.
-CN: PERRL. EOMI. Mild left nasolabial fold flattening. Mild
dysarthria. Tongue midline. 
-MOT: Somewhat limited as patient requires frequent prompting. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA 
L  0*   4+  ___  5-    4+   ___     
R  5    ___   5  5     4    ___     

 
Pertinent Results:
=======
IMAGING
=======
- ___ CTA Head
1. Right thalamic low genius ___ hyperdense lesion with
surrounding edema. Though this may represent an evolving
hematoma, the possibility of an underlying neoplasm should be
considered.  MR imaging would be helpful. 
2. Unremarkable head CTA. 
3. Partial opacification of the right mastoid air cells. 

- ___ CT Head
1. There is hemorrhage within right thalamus, with surrounding
edema, stable since prior.  Low-attenuation component extends to
the third ventricle.  Differential considerations include
involving hematoma or partially hemorrhagic mass.  Consider MRI
brain with gadolinium in further evaluation.  Suggestion of 
trace
intraventricular hemorrhage. 
2. Small area of right centrum semiovale subacute to chronic
ischemia within the background of mild chronic small vessel
ischemic changes. 
3. Moderate opacification of right mastoid air cells. 

- ___ TTE
The left atrium is normal in size. No thrombus/mass is seen in
the body of the left atrium. No atrial septal defect is seen by
2D or color Doppler. There is mild symmetric left ventricular
hypertrophy with normal cavity size and regional/global systolic
function (LVEF=55%). No masses or thrombi are seen in the left
ventricle. There is no ventricular septal defect. The diameters
of aorta at the sinus, ascending and arch levels are normal. The
aortic valve leaflets are mildly thickened (?#). No masses or
vegetations are seen on the aortic valve. There is mild aortic
valve stenosis (valve area 1.2-1.9cm2). Mild (1+) aortic
regurgitation is seen. The mitral valve leaflets are mildly
thickened. No mass or vegetation is seen on the mitral valve.
There is moderate thickening of the mitral valve chordae. 
Trivial
mitral regurgitation is seen. The tricuspid valve leaflets are
mildly thickened. There is moderate pulmonary artery systolic
hypertension. There is no pericardial effusion. 

___ UE ultrasound
IMPRESSION:  
-Nonocclusive thrombus surrounding the right PICC extending from 
the right 
brachial to the right subclavian veins. 
-No evidence of deep vein thrombosis in the left upper extremity 
veins. 
  

 
Brief Hospital Course:
Mr. ___ is an ___ yo man with a history of CAD, systolic 
HF, HTN, HLD, possible dementia, hx infarct, hx NSTEMI who was 
found down at home on ___ at the bottom of a staircase, duration 
of time down is unknown. Was found to have a right thalamic IPH, 
also ___ due to rhabdomyolysis, troponinemia, and pulmonary
congestion vs aspiration. Admitted to ICU for respiratory 
distress, resolved with supportive care and antibiotics for 
likely aspiration event.

Brief ICU Course: 
Presented to the ED on ___, evaluated by neurology service, 
admitted to the neuro ICU on ___ for respiratory difficulties 
requiring maximum O2 on face tent. CXR showed bilateral basilar 
opacities, consistent with aspiration. Started on levofloxacin 
for aspiration. ABG remained stable. PICC was placed at bedside 
due to difficulty obtaining PIV. He became more somnolent, 
dysarthric, and confused that evening so a repeat CT was done 
which was stable, but better showed surrounding edema - 
consistent with either older bleed vs possible malignant lesion. 
Continued on fluids for CK elevation, also albumin and Lasix to 
improve urine output; these were effective. On ___ restarted 
home aspirin (but not Plavix) due to history obtained from PCP 
of extensive LAD disease. Failed swallow evaluation, and 
received NGT following day. Kidney function continued to improve 
(Cr 2.2->1.5) with good UOP, CK continued to downtrend 
(~4000->1500), and respiratory status also improved, and he did 
not require supplemental O2 by evening of ___ when he was 
transferred to floor. His home metroprolol dose was also resumed 
(50mg BID). 

# ICH - R thalamic IPH: ___ CT showed stable bleed with possibly 
enhanced edema, c/f malignancy vs older bleed.  Etiology 
hypertensiion vs malignancy, though likely the former. Given 
recent bleed, held off MRI, will need to be ordered as 
outpatient basis. He was continued on home aspirin. Blood 
pressure maintained under 150s. 

# Dysphagia: Initially he had issues with dysphagia, video 
swallow revealed ability to tolerate pureed solids and nectar 
thick liquids with 1:1 supervision and chin tuck.

# NSTEMI with hx CAD: Likely secondary to demand ischemia. 
Troponin peaked ___. EKG NSR. EF=55%. Resumed home dose 
metoprolol 50mg BID.

# Respiratory insufficiency: Improved. Likely secondary to 
aspiration. Initially suspected pulmonary edema due to heart 
failure however TTE normal. He received empiric treatment for 
aspiration pneumonia with levofloxacin.
 
# ___: likely due to rhabdomyolysis: Initially volume depleted 
(found down for unknown duration). Cr peaked at 2.2, on 
discharge 1.0. Initial CK ~4000.

# Left humeral fracture: displaced fracture of the greater 
tubercle. Seen by orthopedics, recommended sling. Non-operative. 
Has orthopedic follow up on discharge.

# Upper extremity DVT: patient had persistent mild leukocytosis 
without fever. Doppler ultrasound of the extremities revealed 
DVT of the brachial, axillary, and subclavian veins of the right 
arm, where the PICC was placed. The PICC was removed. Held off 
anticoagulation given recent intraparenchymal hemorrhage.

Transitional issues
#Neurology
[ ] follow up as above
[ ] outpatient MRI with contrast to eval for underlying mass 
lesion
[ ] SBP goal <140

#Ortho
[ ] outpatient ortho follow up for left humeral fracture

#UE DVT
[ ] PCP follow up. ___ contraindicated given recent 
IPH.

#Cardiovascular
[ ] Plavix held due to unclear indications, other than CAD. 
please address on subsequent visits
[ ] Atorvastatin decreased to 40mg from 80mg given recent IPH 
and normal LDL on admission.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Lisinopril 20 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO DAILY 
7. Metoprolol Tartrate 50 mg PO BID 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Aspirin 81 mg PO DAILY  
4.  Docusate Sodium 100 mg PO DAILY  
5.  Metoprolol Tartrate 50 mg PO BID  
6. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until evaluated by Neurology on 
follow up

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right thalamic intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of <> resulting from an 
ACUTE hemorrhagic STROKE. The brain is the part of your body 
that controls and directs all the other parts of your body, so 
damage to the brain from being deprived of its blood supply can 
result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
High blood pressure

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___